US07888364B2
Procedure F was performed using 80 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 209 mg of 1-Boc-piperizine in 1 mL of BuOH. The reaction mixture was evaporated to afford tert-butyl 4-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-6-methylpyridin-2-yl)piperazine-1-carboxylate. 150 mg of tert-butyl 4-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-6-methylpyridin-2-yl)piperazine-1-carboxylate was treated with TFA (1 mL) containing trace amounts of H2O for 2 h. The reaction mixture was diluted with ethyl acetate, washed with 0.1N sodium hydroxide and brine, dried (MgSO4) and evaporated. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(piperazin-1-yl)nicotinamide. MS (Q1) 408.3 (M)+.

reactant | tert-butyl 4-(5-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)-6-methylpyridin-2-yl)piperazine-1-carboxylate | 150 mg | ClC1=C(C=C(C=C1)NC(=O)C=1C=CC(=NC1C)N1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C27H30ClN5O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(piperazin-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1CCNCC1)C)=O)C1=NC=CC=C1 | C22H22ClN5O
